US05446121
A solution of potassium hydroxide (6.9 kg, 133.7 mol) in 14 mL of methanol was heated to reflux temperature and crude 1-butyl-3-trifluoroacetylindole(11.5 kg) in 35 L of toluene was added slowly. The mixture was heated underreflux for 60 minutes, cooled to approximately 50° C. and 80 L of water was added. The aqueous layer was separated and extracted with 30 L toluene. Phosphoric acid was then added to the aqueous layer until a pH of7.16 was obtained. Ethyl acetate was then added, followed by additional phosphoric acid until a pH of 2.38 was obtained. The ethyl acetate layer was separated and washed twice with water (2×40 L). The ethyl acetate layer was filtered, heated to 83° C. and combined with 40 Lof heptane at which point crystallization occured. The mixture distilled until the mixture heated to 89° C., afterwhich the mixture was cooled slowly. A crystalline product was obtained and isolated by filtration. Drying under nitrogen gave 1-butylindole-3-carboxylic acid (6.64 kg, 30.6 mol), m.p. 124°-126° C.

reactant | potassium hydroxide | 133.7 mol, 6.9 kg | [OH-].[K+]
reactant | 1-butyl-3-trifluoroacetylindole | 11.5 kg | C(CCC)N1C=C(C2=CC=CC=C12)C(C(F)(F)F)=O | C14H14F3NO
reactant | water | 80 L | O | H2O
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | methanol | 14 mL | CO | CH4O
solvent | toluene | 35 L | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-butylindole-3-carboxylic acid | 30.6 mol, 6.64 kg | C(CCC)N1C=C(C2=CC=CC=C12)C(=O)O | C13H15NO2
